US05153207
4-(Diphenylmethoxy)-1-piperidinepropionic acid hydrochloride
A mixture of 3.22 g of ethyl 4-(diphenylmethoxy)-1-piperidinepropionate hydrochloride in 30 ml of methanol and 12.0 ml of 2N sodium hydroxide aqueous solution was refluxed for 1 hour and concentrated. Water was added to the residue and made acidic with hydrochloric acid. The precipitate was collected by filtration and recrystallized from water to give 2.64 g of colorless needles, mp 183°~185° C.

reactant | ethyl 4-(diphenylmethoxy)-1-piperidinepropionate hydrochloride | 3.22 g | Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCC(=O)OCC)C1=CC=CC=C1
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 12.0 ml | [OH-].[Na+]
product | 4-(Diphenylmethoxy)-1-piperidinepropionic acid hydrochloride | 2.64 g | Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCC(=O)O)C1=CC=CC=C1 | InChI=1S/C21H25NO3.ClH/c23-20(24)13-16-22-14-11-19(12-15-22)25-21(17-7-3-1-4-8-17)18-9-5-2-6-10-18;/h1-10,19,21H,11-16H2,(H,23,24);1H
